US07157604B2
A solution of 5-(acetylamino)-4-bromo-2-ethyl-1-indanone (1.0 g, 3.39 mmol) in MeOH (5.1 mL) was treated with 0.5M NaOMe in MeOH (3.4 mL, 1.7 mmol) and ethyl vinyl ketone (0.506 mL, 5.08 mmol). The mixture was stirred and heated at 60° C. for 4.5 hours, then evaporated under vacuum. The residue was partitioned between EtOAc (75 mL), brine (50 mL), and water (10 mL). The organic portion was dried over MgSO4, filtered, and evaporated under vacuum. The residue was added to a short column of silica gel (30 mL) which was washed with CH2Cl2 (150 mL) and eluted with EtOAc (150 mL). The EtOAc eluant was evaporated under vacuum to provide crude 5-amino-4-bromo-2-ethyl-2-(3-oxopentyl)-1-indanone (1.17 g) as an oil.

reactant | 5-(acetylamino)-4-bromo-2-ethyl-1-indanone | 3.39 mmol, 1.0 g | C(C)(=O)NC=1C(=C2CC(C(C2=CC1)=O)CC)Br | C13H14BrNO2
reactant | NaOMe | 0.5M | C[O-].[Na+]
reactant | ethyl vinyl ketone | 5.08 mmol, 0.506 mL | C(=C)C(=O)CC | C5H8O
solvent | MeOH | 5.1 mL | CO | CH4O
solvent | MeOH | 1.7 mmol, 3.4 mL | CO | CH4O
product | 5-amino-4-bromo-2-ethyl-2-(3-oxopentyl)-1-indanone | 1.17 g | NC=1C(=C2CC(C(C2=CC1)=O)(CCC(CC)=O)CC)Br | C16H20BrNO2
